Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
1.  Status post high ulnar nerve injury to left mid forearm
secondary to a gunshot wound in ___ in war.
2.  Cold intolerance, left hand.
3.  Weakness sequelae with a weakened grip and pain sequelae
from diagnosis #1.
 
Major Surgical or Invasive Procedure:
1.  Free vascularized fascial lipocutaneous flap from left
forearm to right palm.
2.  Revascularization of left radial artery with reverse
autogenous saphenous vein graft.
 
History of Present Illness:
___ is a man who has been followed in our
Hand Clinic for other problems, including most recently a
crush injury to his left thumb.  In the past, we saw him for a
number of problems including severe weakness and cold
intolerance to his left hand and severe weakness and pinch. 
He had many years previously sustained a gunshot wound to the
proximal and middle thirds of the left palm with injury to the
ulnar nerve.  He subsequently developed an ulnar nerve
intrinsic palsy of his hand with diminished sensation. 
However, _____ cold intolerance, which has bothered him
tremendously as well as the weakness associated not only in
grip, but also prehension activities, which has bothered him
since the time of recovery after his original injury. 
Preoperatively, he had all signs of high ulnar nerve palsy,
severe atrophy of all the intermetacarpal spaces, and
absolutely no evidence of function of any of the normally
ulnar nerve innervated intrinsic muscles.  These symptoms are
as noted above.
 
Past Medical History:
1.  Patient was wounded in the war in ___ in ___, when he 
was
___ years old.  He was hit in the right upper arm by a bullet that
exited in his right forearm.  The patient had to have multiple
surgeries for this.
2.  Posttraumatic stress disorder from the war.  He is seeing a
psychiatrist Dr. ___ at ___.
3.  Recent crush injury to left thumb, patient accidentally got
his left thumb against a sharp edge of a table and a wall.
4.  Hyperlipidemia.
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
General: Well-appearing, NAD
Pulm: Nonlabored on RA

MSK: 

RUE:  
-Hand in splint that is clean dry and intact
-Hand and forearm compartments soft and compressible without 
pain
to passive stretch
-Fires EPL, FPL, EDC, FDS, FDP, GI
-SILT M, R, U, A nerve distributions
-Radial pulse palpable

LUE:  
-Hand in splint that is clean dry and intact
-Drain producing scant SS drainage
-Hand and forearm compartments soft and compressible without 
pain
to passive stretch
-Fires EPL, FPL, EDC, FDS, FDP, GI
-SILT M, R, U, A nerve distributions
-Radial pulse palpable
 
Brief Hospital Course:
Patient met for above surgery.  Monitored overnight for pain 
control.  Pain adequately controlled the following morning.  
Postoperative course uneventful.  Patient discharged on postop 
day 1.
 
Medications on Admission:
MEDICATIONS:--------------- --------------- ---------------
---------------
Active Medication list as of ___:
 
Medications - Prescription
ATORVASTATIN - atorvastatin 10 mg tablet. TAKE 1 TABLET BY MOUTH
EVERY DAY
ESCITALOPRAM OXALATE - Dosage uncertain -  (Prescribed by Other
Provider: 30 mg nightly )
LORAZEPAM [ATIVAN] - Dosage uncertain -  (Prescribed by Other
Provider)
PRAZOSIN - Dosage uncertain -  (Prescribed by Other Provider: 2
mg hs )
TRAZODONE - Dosage uncertain -  (Prescribed by Other Provider: 
50
mg hs )
--------------- --------------- --------------- ---------------
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild NOT relieved by 
Ibuprofen  
2.  Aspirin 325 mg PO DAILY 
RX *aspirin ___ Aspirin] 325 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Twice 
daily as needed Disp #*40 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every 4 hours as 
needed Disp #*25 Tablet Refills:*0 
5. Continue all of the above home medications patient was taking 
prior to admission

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Weakness and atrophy of RUE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER SURGERY:

- You were in the hospital for surgery. It is normal to feel 
tired or "washed out" after surgery, and this feeling should 
improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- NWB LUE, WBAT BLE

MEDICATIONS:
  1)  Take Tylenol ___ every 6 hours around the clock. This is 
an over the counter medication.
  2)  Add  oxycodone as needed for increased pain. Aim to wean 
off this medication in 1 week or sooner.  This is an example on 
how to wean down:
Take 1 tablet every 3 hours as needed x 1 day,
then 1 tablet every 4 hours as needed x 1 day,
then 1 tablet every 6 hours as needed x 1 day,
then 1 tablet every 8 hours as needed x 2 days, 
then 1 tablet every 12 hours as needed x 1 day,
then 1 tablet every before bedtime as needed x 1 day.  
Then continue with Tylenol for pain.
  3)  Do not stop the Tylenol until you are off of the narcotic 
medication.
  4)  Per state regulations, we are limited in the amount of 
narcotics we can prescribe. If you require more, you must 
contact the office to set up an appointment because we cannot 
refill this type of pain medication over the phone. 
  5)  Narcotic pain relievers can cause constipation, so you 
should drink eight 8oz glasses of water daily and continue 
following the bowel regimen as stated on your medication 
prescription list. These meds (senna, colace, miralax) are over 
the counter and may be obtained at any pharmacy.
  6)  Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
  7)  Please take all medications as prescribed by your 
physicians at discharge.
  8)  Continue all home medications unless specifically 
instructed to stop by your surgeon.
      
ANTICOAGULATION:
- Please take Aspirin 325 mg daily for 4 weeks
 
Followup Instructions:
___